US06579874B2
c) 4-Bromo-2-(4-fluorophenyl)-1-H-imidazole
4-Bromo-2-(4-fluorophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)imidazole (3.4 g; 9 mmol) is dissolved in EtOH (34 ml) and HCl conc. (37%; 34 ml) and heated to 55 C for 1 h. Water is added to the reaction mixture and the aqueous phase extracted three times with ethyl acetate. The combined organic phases are washed with 2N Na2CO3 and saturated NaCl-solution, dried over Na2SO4, filtered and evaporated to dryness to yiled the title compound as colorless crystals (2.1 g, 92%).

reactant | 4-Bromo-2-(4-fluorophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)imidazole | 9 mmol, 3.4 g | BrC=1N=C(N(C1)COCC[Si](C)(C)C)C1=CC=C(C=C1)F | C15H20BrFN2OSi
reactant | HCl | 34 ml | Cl | ClH
reactant | Water | O | H2O
solvent | EtOH | 34 ml | CCO | C2H6O
product | 4-Bromo-2-(4-fluorophenyl)-1-H-imidazole | BrC=1N=C(NC1)C1=CC=C(C=C1)F | C9H6BrFN2
